US08003785B2
A mixture of 0.040 g (0.1 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.029 g (0.11 mmole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.030 g (0.15 mmole) of p-toluenesulfonic acid monohydrate and 2 mL of isopropanol was stirred in a pressure tube at 140 degrees overnight. The mixture was cooled, diluted with dichloromethane and saturated sodium carbonate and extracted twice with dichloromethane. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (100:0-50:50) gave 0.033 g of give 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-137) as a white solid.

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.1 mmole, 0.040 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCC2)N1 | C12H13ClF2N4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.11 mmole, 0.029 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.15 mmole, 0.030 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.033 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C26H33F2N7O3
